* SpiceNetList
* 
* Exported from Simulated05.sch at 28.01.2020 17:30
* 
* EAGLE Version 9.5.2 Copyright (c) 1988-2019 Autodesk, Inc.
* 
.TEMP=25.000000
* --------- .OPTIONS ---------
* --------- .PARAMS ---------
.PARAM RATIO=1/10

* --------- devices ---------
D_D4 0 N_3 DMOD 
V_VCUR_2 N_7 VPREREG 
R_R7 0 DIFF 1G 
V_VCUR_1 N_4 N_3 DC 0V AC 0 
R_R5 VIN-L N_4 1000k 
D_D6 VPREREG VREG DMOD 
C_C3 VREG 0 47u 
X_D5 0 VPREREG DI_BZT52C9V1LP 
D_D3 0 VIN-N DMOD 
V_I_LOAD VREG VOUT 
C_C2 VREG 0 100n 
R_R4 0 V_LIN 1k 
R_R6 N_5 VIN-L 220 
C_C4 V_LIN 0 100n 
D_D1 VIN-N VGL DMOD 
C_C1 VIN-L N_4 .39u 
R_R2 N_7 VGL 220 
R_R3 0 VOUT 100k 
V_V1 N_2 VIN-N DC 0V AC 340V SIN(0 340 50hz 0 0) 
X_U$1 N_5 VIN-N DIFF MEASDIFF 
X_IC1 VOUT 0 V_LIN LM7805 
R_R1 N_2 N_5 0.01 
D_D2 N_3 VGL DMOD 

* --------- models ---------

* (model found in library)

**********************
* Autodesk EAGLE - Spice Model File
* Date: 9/17/17
* basic diode intrinsic model
**********************
.MODEL DMOD D


* (model found in library)

.subckt measdiff in+ in- out
Emeas out 0 in+ in- 1
.ends


* model file: E:/Projects/Elektronik/Arduino/ATtiny/UVTimer/Simulation/AC-Coupled-Supply/DI_BZT52C9V1LP.mdl
*SRC=BZT52C9V1LP;DI_BZT52C9V1LP;Diodes;Zener <=10V; 9.10V  0.250W   Diodes Inc. QFN Zener
*SYM=HZEN
.SUBCKT DI_BZT52C9V1LP  1 2
*        Terminals    A   K
D1 1 2 DF
DZ 3 1 DR
VZ 2 3 7.44
.MODEL DF D ( IS=11.3p RS=31.3 N=1.10
+ CJO=50.3p VJ=0.750 M=0.330 TT=50.1n )
.MODEL DR D ( IS=2.26f RS=3.45 N=2.23 )
.ENDS


* model file: E:/Projects/Elektronik/Arduino/ATtiny/UVTimer/Simulation/AC-Coupled-Supply/LM7805.mdl
* LM7805 model. 
* No need to use .inc - I've set the .asy symbol to remove the need for .inc.
* (I used the symbol of LT1084, just replaced the LT1084 by LMxxxx and LTC.LIB by regulators.lib) 
.SUBCKT LM7805  1    2    3
* In GND Out
QT6          23  10  2   Q_NPN 0.1
QT7          5   4   10  Q_NPN 0.1
QT5          7   6   5   Q_NPN 0.1
QT1          1   9   8   Q_NPN 0.1
QT3          11  8   7   Q_NPN 0.1
QT2          11  13  12  Q_NPN 0.1
QT17         1   15  14  Q_NPN 10
C2           10  23      4P
R16          12  5       500
R12          16  2       12.1K
QT18         17  23  16  Q_NPN 0.1
D1           18  19  	 D_D 
R11          20  21      850
R5           22  3       100
QT14         24  18  2   Q_NPN 0.1
R21          6   2       2.67K
R20          3   6       640
DZ2          25  26      D_5V1 
R19          1   26      16K
R18          14  3       250M
R17          25  14      380
R15          25  15      1.62K
QT16         1   20  15  Q_NPN 1
QT15         2   24  21  Q_PNP 0.1
*OFF
R14          21  24      4K
C1           27  24      20P
R13          19  2       4K
QT13         24  27  18  Q_NPN 0.1
QT12         20  25  22  Q_NPN 1 
*OFF
QT11         20  28  2   Q_NPN 0.1
*OFF
QT10         20  11  1   Q_PNP 0.1
R10          17  27      16.5K
R9           5   4       1.9K
R8           4   23      26
R7           10  2       1.2K
R6           29  2       1K
QT9          11  11  1   Q_PNP 0.1
QT8          27  16  29  Q_NPN 0.1
QT4          15  6   17  Q_NPN 0.1
DZ1          2   9       D_5V6
R4           1   9       80K
R3           28  2       830
R2           13  28      4.97K
R1           8   13      7K
.MODEL D_5V1 D( IS=10F N=1.16 BV=5.1 IBV=0.5M CJ0 = 1P TT = 10p )
.MODEL D_5V6 D( IS=10F N=1.16 BV=5.6 IBV=5U CJ0 = 1P TT = 10p )
.MODEL Q_NPN NPN( IS=10F NF=1.16 NR=1.16 BF=80 CJC=1P CJE=2P  
+       TF=10P TR=1N )
.MODEL Q_PNP PNP( IS=10F NF=1.16 NR=1.16 BF=80 CJC=1P CJE=2P  
+      TF=10P TR=1N )
.MODEL D_D D( IS=1F N=1.16 CJ0 = 1P TT = 10p )
.ENDS LM7805


* --------- simulation ---------
.print DC V(VGL) V(VPREREG) V(VOUT) V(V_LIN) V(N_5) V(DIFF) I(V_I_LOAD) I(V_VCUR_1) I(V_V1) I(V_VCUR_2)
.print AC V(VGL) V(VPREREG) V(VOUT) V(V_LIN) V(N_5) V(DIFF) I(V_I_LOAD) I(V_VCUR_1) I(V_V1) I(V_VCUR_2)
.print TRAN V(VGL) V(VPREREG) V(VOUT) V(V_LIN) V(N_5) V(DIFF) I(V_I_LOAD) I(V_VCUR_1) I(V_V1) I(V_VCUR_2)
.END










